US06617346B1
A mixture of 5-ethyl-2-iodophenol (1.0 g, 4 mmol), potassium carbonate (1.10 g, 8 mmol) and 2-iodopropane (0.80 mL, 8 mmol) was heated at reflux for 6 h. The reaction mixture was cooled to room temperature and water was added. The mixture was extracted with diethyl ether. The combined organic extracts were washed with brine and dried over anhydrous magnesium sulfate. The solid was then filtered off, and the filtrate was concentrated in vacuo. Purification of the residue by flash chromatography (Biotage system, KP-Sil™ 32-63 μm, 60 Å silica gel) eluting with hexanes, 5% ethyl acetate in hexanes yielded 4-ethyl-1-iodo-2-isopropoxy-benzene (0.93 g, 80%).

reactant | 5-ethyl-2-iodophenol | 4 mmol, 1.0 g | C(C)C=1C=CC(=C(C1)O)I | C8H9IO
reactant | potassium carbonate | 8 mmol, 1.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 8 mmol, 0.80 mL | IC(C)C | C3H7I
solvent | water | O | H2O
product | 4-ethyl-1-iodo-2-isopropoxy-benzene | 0.93 g, 80% | C(C)C1=CC(=C(C=C1)I)OC(C)C | C11H15IO
